data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)(C)[OH:10].CN(C)C1=CC=[N+](C=C1)[C:20](=[O:21])CC2=CC=CC=C2.CCN(CC)CC.CC(=O)[O-]>>CC(C)(C)[OH+:10][C:20](CC1=CC=CC=C1)([N+]2=CC=C(C=C2)N(C)C)[O-:21].CCN(CC)CC.CC(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]C.COC12C(CCO1)(C3=C([O:10]2)C=CC=C3)C4=CC=CC=C4.[Br-]>>[H:20][O+:10]1C2=C(C=CC=C2)C3(C1(OCC3)OC)C4=CC=CC=C4.C[OH:21].[Br-] 10=20;20,21=21
[H:20][CH:21](C)[O:22][S+:23](C)[CH2-:10]>>[H:20][CH2:10][S:23]C.C[CH:21]=[O:22] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C(C1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N)(N)OCC.[OH2:10].[OH3+].[Cl-]>>[H:20][OH2+:10].CCOC(=O)C1(C(CCC(C1CC(=O)C)(C#N)C(N)([OH:21])OCC)C)C(=O)OCC.[OH3+].[Cl-] 10=20;20,21=21
[H:20][O:21][C:22]1=[O+:23]C(CCC1)C2CC2C(CO)O[Sn-](Cl)(Cl)(Cl)Cl.[OH-:10]>>[H:20][OH:10].C1CC([O:23][C:22](=[O:21])C1)C2CC2C(CO)O[Sn-](Cl)(Cl)(Cl)Cl 10=20;22,23=23;20,21=21,22
CC(=O)CC[CH:20]([C:21]#N)[O-:10]>>CC(=O)CC[CH:20]=[O:10].[C-:21]#N 10=20;20,21=21
[H:20][I:21].CO[P:10](I)I>>[H:20][P+:10](OC)(I)I.[I-:21] 10=20;20,21=21
[H:20][CH:21](C)[C:22](=[O:23])C(C)C.[NH2-:10]>>[H:20][NH2:10].C[CH:21]=[C:22](C(C)C)[O-:23] 10=20;22,23=23;20,21=21,22
[B-]([O+:21](C)[CH2:20][O:10]CC)(F)(F)F>>[B-]([O:21]C)(F)(F)F.CC[O+:10]=[CH2:20] 10=20;20,21=21
CCOC(=O)[N:10](CC1=CC=CC=C1)[CH:20](C2=CC=CC=C2)[O+:21](CC)[Sn-](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC#C>>CCOC(=O)[N+:10](=[CH:20]C1=CC=CC=C1)CC2=CC=CC=C2.CC[O:21][Sn-](Cl)(Cl)(Cl)Cl.C[Si](C)(C)CC#C 10=20;20,21=21
[H:20][O:21]C(C)(C)C.CC1(OCC2C(O1)C(C(CO2)[O-:10])O)C>>[H:20][O:10]C1COC2COC(OC2C1O)(C)C.CC(C)(C)[O-:21] 10=20;20,21=21
[H:20][C:21]1=[N+](N=C2N1C(CC2F)C(C)C)C3=C(C(=C(C(=C3F)F)F)F)F.CC[N:10](C(C)C)C(C)C.[B-](F)(F)(F)F.CCOC(=O)C(=O)C=CC1=CC=CC=C1.C1=CC2=CC=C(N=C2C=C1)C=O.C1=COC(=C1)C=O>>[H:20][N+:10](CC)(C(C)C)C(C)C.CC(C)C1CC(C2=N[N+](=[C-:21]N12)C3=C(C(=C(C(=C3F)F)F)F)F)F.[B-](F)(F)(F)F.CCOC(=O)C(=O)C=CC1=CC=CC=C1.C1=CC2=CC=C(N=C2C=C1)C=O.C1=COC(=C1)C=O 10=20;20,21=21
COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:11](=[CH:10]Br)[O-:12])OC.[Br:20][Br:21].O.[Na+].[Br-]>>COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)[C:11](=[O:12])[CH:10](Br)[Br:20])OC.[Br-:21].O.[Na+].[Br-] 10,11=10,20;20,21=21;12=11
C[CH:10](CC(C)O)[OH2+:11]>>C[CH+:10]CC(C)O.[OH2:11] 10,11=11
CC(CO)O[P:20]([O-:10])(Cl)(Cl)[Cl:21]>>CC(CO)O[P:20](=[O:10])(Cl)Cl.[Cl-:21] 10=20;20,21=21
CC[O:21][C:20](C)(C[N+](=O)[O-])[O-:10]>>CC[O-:21].C[C:20](=[O:10])C[N+](=O)[O-] 10=20;20,21=21
[H:20][O:21]C.CC1CCC(=O)C1(CCC#C)C[C:10](=[C:11](C)[O-:12])[Si](C)(C)C.O[K]>>[H:20][C:10](CC1(C(CCC1=O)C)CCC#C)([C:11](=[O:12])C)[Si](C)(C)C.C[O-:21].O[K] 10,11=10,20;20,21=21;12=11
[Li-:10]([NH+:5]([Si:2]([CH3:1])([CH3:3])[CH3:4])[Si:6]([CH3:7])([CH3:8])[CH3:9])[O+:11]=[C:12]1[CH:13]=[C:14]2[CH2:15][CH2:16][CH:17]([C:21]2([CH2:23][CH2:24][CH:25]1[CH2:26][N:27]([CH3:28])[CH3:29])[CH3:22])[CH:18]([CH3:19])[CH3:20].[I-:30]>>[Li:10][NH+:5]([Si:6]([CH3:9])([CH3:8])[CH3:7])[Si:2]([CH3:3])([CH3:1])[CH3:4].[CH3:19][CH:18]([CH3:20])[CH:17]1[CH2:16][CH2:15][C:14]2=[CH:13][C:12](=[O:11])[CH:25]([CH2:24][CH2:23][C:21]12[CH3:22])[CH2:26][N:27]([CH3:28])[CH3:29].[I-:30] 10,11=11
B1(OC2=C(O1)C=CC=C2)C3=C([O+:21](N=C3C4=CC=CC=C4)[CH3:20])CCCC.[Cl-:10]>>B1(OC2=C(O1)C=CC=C2)C3=C([O:21]N=C3C4=CC=CC=C4)CCCC.[CH3:20][Cl:10] 10=20;20,21=21
CO[Si-:10](C)(C)(C)[Cl:11]>>CO[Si:10](C)(C)C.[Cl-:11] 10,11=11
[H:20][O:21]C(=O)C(=O)O.CC1(CC(C[C:11](=[CH2:10])[CH:12]=[C:13](C1)[OH:14])O)C>>[H:20][CH2:10][C:11]1=[CH:12][C:13](=[OH+:14])CC(CC(C1)O)(C)C.C(=O)(C(=O)[O-:21])O 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][O:21]C1(C=CC(=O)C=C1)C#CC2=CC=CC=C2.CN(C)C1=CC=[N+](C=C1)C(=O)C[C:11](=[CH2:10])[O-:12]>>[H:20][CH2:10][C:11](=[O:12])CC(=O)[N+]1=CC=C(C=C1)N(C)C.C1=CC=C(C=C1)C#CC2(C=CC(=O)C=C2)[O-:21] 10,11=10,20;20,21=21;12=11
[CH3:20][O:21][P+:22](C)(O)O.[Br-:10]>>C[P:22](=[O:21])(O)O.[CH3:20][Br:10] 10=20;20,21=21,22
C[CH:20]1C[OH+:21]1.[OH2:10]>>C[CH:20](C[OH:21])[OH2+:10] 10=20;20,21=21
C[CH:10](C=C)[Mg:11]Br.C[C:20](=[O:21])C>>C[CH:10](C=C)[C:20](C)(C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[B-]([OH+:21][C:20]1(CC(=O)C=C1)[O:10]CC(CO)(C2=CC=CC=C2)C3=CC=CC=C3)(F)(F)F.CCOCC.C1=CC=C(C=C1)C(CO)(CO)C2=CC=CC=C2>>[B-]([OH:21])(F)(F)F.C1C(=O)C=C[C:20]1=[O+:10]CC(CO)(C2=CC=CC=C2)C3=CC=CC=C3.CCOCC.C1=CC=C(C=C1)C(CO)(CO)C2=CC=CC=C2 10=20;20,21=21
C(=[NH:10])N.[Cu:20](Br)Br>>C(=[NH+:10][Cu-:20](Br)Br)N 10=20,
CC=NO[C:20](C)([O-:10])[O:21]C(=O)C>>CC=NO[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC1(C2CCC3CC4CC3(C2(CCC1=O)C)CCC4[OH:10])C.CC(=O)O.CC(=O)[O-].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]C3CCC45CC3CC4CCC6C5(CCC(=O)C6(C)C)C)OC(=O)C.CC(=O)O.CC(=O)[O-].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20,
[OH:20][OH:21].[SH2:10]>>[OH-:21].[OH:20][SH2+:10] 10=20;20,21=21
CC(C)(C)[Si](C)(C)OC(CC1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)[O-:10])COCC3=CC=C(C=C3)OC.CC(C)(C)[Si:20](C)(C)Cl.[Li+].CC(C)C>>CC(C)(C)[Si](C)(C)OC(CC1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)[O:10][Si-:20](C)(C)(C(C)(C)C)Cl)COCC3=CC=C(C=C3)OC.[Li+].CC(C)C 10=20,
C[CH:10](C)[I:11]>>C[CH+:10]C.[I-:11] 10,11=11
